US05329035
Cuprous iodide (99.1 mg; 0.52 mmole) was weighed into a 30 ml reaction tube purged with argon, and the inside of the tube was dried under reduced pressure. Then, the reaction tube was again purged with argon. Dry tetrahydrofuran (2 ml) and tributylphosphine (0.337 ml; 1.35 mmole) were introduced into the reaction tube, and stirred at 20° C. with stirring to form a uniform solution. The solution was cooled to -78° C., and n-butyllithium (1.60M, 0.325 ml, 0.52 mmole) was added, and the mixture was stirred at -78° C. for 10 minutes. Then, a solution of (R)-4-t-butyldimethylsiloxy-2-cyclopentenone (100 mg, 0.471 mmole) in tetrahydrofuran (2 ml) was added dropwise at -78° C. over 10 minutes. The mixture was stirred at -78° C. for 10 minutes. Then, hexamethylphosphoric triamide (1 ml) was added, and the mixture was stirred for 40 minutes at -78° C. Tributyltin chloride (0.14 ml, 0.520 mmole) was added, and the temperature was raised to -40° C. A solution of 1-iodo-2-octyne (184 mg, 0.78 mmole) in tetrahydrofuran (1 ml) was added, and the mixture was stirred for 2 hours. Ether (5 ml) was added to the reaction mixture, and the mixture was successively washed with a saturated aqueous solution of ammonium chloride (5 ml), a saturated aqueous potassium thiocyanate solution (5 ml) and a saturated aqueous sodium chloride solution (5 ml). The separated organic layer was dried over anhydrous sodium sulfate. The dried product was filtered and concentrated under reduced pressure. The resulting crude product was separated by silica gel column chromatography (Merck 7734, 6% water, 20 g; hexane:ethyl acetate=30:l) to give (2R,3R,4R)-3-butyl-4-t-butyldimethylsiloxy-2-(2-octynyl)cyclopentanone (88.1 mg, 0.233 mmole, 49%).

reactant | tributylphosphine | 1.35 mmole, 0.337 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | n-butyllithium | 0.52 mmole, 1.60M, 0.325 ml | C(CCC)[Li]
reactant | (R)-4-t-butyldimethylsiloxy-2-cyclopentenone | 0.471 mmole, 100 mg | O([Si](C)(C)C(C)(C)C)[C@H]1C=CC(C1)=O | C11H20O2Si
reactant | Tributyltin chloride | 0.520 mmole, 0.14 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | 1-iodo-2-octyne | 0.78 mmole, 184 mg | ICC#CCCCCC | C8H13I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | Ether | 5 ml | CCOCC | C4H10O
solvent | hexamethylphosphoric triamide | 1 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | (2R,3R,4R)-3-butyl-4-t-butyldimethylsiloxy-2-(2-octynyl)cyclopentanone | 0.233 mmole, 88.1 mg, 49% | C(CCC)[C@@H]1[C@H](C(C[C@H]1O[Si](C)(C)C(C)(C)C)=O)CC#CCCCCC | C23H42O2Si
